US06395731B1
By an exactly analogous method to that described in Example 1, starting from 4-(1-imidazolyl)benzoic acid hydrochloride and 1-(6-bromonaphth-2-ylsulphonyl)piperazine was prepared 1-(6-bromonaphth-2-ylsulphonyl)-4-[4-(1-imidazolyl)benzoyl]piperazine (444 mg, 85% yield), m.p. 207-209° C. (from ethanol/hexane), 1H NMR (d6DMSO) 3.0-3.2 ppm (broad s,4H), 3.5-3.8 ppm (broad s,4H), 7.1 ppm (s,1H), 7.4 ppm (d,2H), 7.6 ppm (d,2H), 7.75 ppm (s,1H), 7.8 ppm (t,2H), 8.2 ppm (t,2H), 8.3 ppm (s,1H), 8.4 ppm (s,1H), 8.45 ppm (s,1H), the spectrum also contained signals due to ethanol (<0.2 mol eq.); microanalysis, found: C, 55.0; H, 4.3; N, 10.4; S, 6.2%; C24H21N4O3BrS requires: C, 54.9; H, 4.0; N, 10.7; S, 6.1%; MS (M+H)+ 525/527.

reactant | 4-(1-imidazolyl)benzoic acid hydrochloride | Cl.N1(C=NC=C1)C1=CC=C(C(=O)O)C=C1
reactant | 1-(6-bromonaphth-2-ylsulphonyl)piperazine | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1 | C14H15BrN2O2S
solvent | ethanol hexane | C(C)O.CCCCCC
product | 1-(6-bromonaphth-2-ylsulphonyl)-4-[4-(1-imidazolyl)benzoyl]piperazine | 444 mg, 85% yield | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)N1C=NC=C1)=O | C24H21BrN4O3S
